US04713486
Methyl 3-(4-formylphenoxy)-propanoate
A solution of methyl 3-(4-methylphenoxy)-propanoate, (15.0 g, 0.077 moles) in acetonitrile, (270 ml), was added to a solution of potassium peroxydisulphate, (41.60 g, 0.154 moles) and copper (II) sulphate (3.85 g, 0.015 moles) in water, (270 ml). The resulting mixture was stirred at 65°-70° C. for 3.5 h, then cooled and extracted with diethyl ether. The organic extract was washed with water, saturated brine and dried, (MgSO4). Evaporation of the solvent gave 14.83 g of an orange oil which was distilled at 0.1 mm/Hg to yield 7.40 g (47%) of the title compound as an oil which crystallized, mp 48°-50° C., υmax (mull) 1735, 1680, (shoulder at 1685), 1605, 1580, 1515 cm-1 δ(CDCl3) 2.81 (2H, t, J 6 Hz, CH2CO2) 3.72 (3H, S, CH3) 4.30 (2H, t, J6 Hz OCH2) 7.39 (4H, ABq, Δυ75 Hz, J9 Hz C6H4) 9.90 (1H, s, CHO).

reactant | methyl 3-(4-methylphenoxy)-propanoate | 0.077 moles, 15.0 g | CC1=CC=C(OCCC(=O)OC)C=C1 | C11H14O3
reactant | potassium peroxydisulphate | 0.154 moles, 41.60 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
solvent | acetonitrile | 270 ml | C(C)#N | C2H3N
solvent | water | 270 ml | O | H2O
catalyst | copper (II) sulphate | 0.015 moles, 3.85 g | S(=O)(=O)([O-])[O-].[Cu+2]
product | Methyl 3-(4-formylphenoxy)-propanoate | 14.83 g | C(=O)C1=CC=C(OCCC(=O)OC)C=C1 | C11H12O4
